US04837220
N-(4-Difluoromethoxyphenyl]-3,4-bis-(4-fluorophenyl)-4,5-dihydropyrazole-1-carboxamide
9.85 g (0.038 mol) 3,4-bis-(4-fluorophenyl)-4,5-dihydropyrazole in 80 ml dichloromethane was treated with 7.03 g (0.038 mol) 4-difluoromethoxyphenyl isocyanate, with stirring at room temperature and stirred for an hour at room temperature. The reaction mixture was filtered through silica gel and the filtrate was concentrated. The residue was treated with 100 ml diisopropyl ether. The precipitated crystals were separated and dried in vacuo (100 Torr).

reactant | 3,4-bis-(4-fluorophenyl)-4,5-dihydropyrazole | 0.038 mol, 9.85 g | FC1=CC=C(C=C1)C1=NNCC1C1=CC=C(C=C1)F | C15H12F2N2
reactant | 4-difluoromethoxyphenyl isocyanate | 0.038 mol, 7.03 g | FC(OC1=CC=C(C=C1)N=C=O)F | C8H5F2NO2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | N-(4-Difluoromethoxyphenyl]-3,4-bis-(4-fluorophenyl)-4,5-dihydropyrazole-1-carboxamide | FC(OC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)F | C23H17F4N3O2
